US05387710
A mixture of 3-nitro-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-one (0.20 g), iron powder (218 mg), ammonium chloride (52 mg), water (1.2 ml) and ethanol (4 ml) was refluxed for 2 hours. After cooling, the insoluble material was filtered off and the filtrate was evaporated in vacuo. To the residue was added ethyl acetate and water. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with brine, dried over anhydrous sodium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel with chloroform as an eluent to give 3-amino-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-one (153 mg).

reactant | 3-nitro-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-one | 0.20 g | [N+](=O)([O-])C1=CC2=C(CCCC(C2)=O)C=C1 | C11H11NO3
reactant | ammonium chloride | 52 mg | [Cl-].[NH4+]
reactant | water | 1.2 ml | O | H2O
catalyst | iron | 218 mg | [Fe] | Fe
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 3-amino-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-one | 153 mg | NC1=CC2=C(CCCC(C2)=O)C=C1 | C11H13NO
